US04288437
(E)-2-[(Methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one
Prepared as in Example 31 from 2-benzoyl-benzo[b]thiophen-3-ol, but using N,N'-dimethylurea in place of ammonium acetate, with a yield of 66% of theory, m.p. 156°-157° C. (ethyl acetate). On the basis of its thin-layer chromatogram, mixed melting point, elemental analysis and IR spectrum, the product was identical to that of Example 2.

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | N,N'-dimethylurea | CNC(=O)NC | C3H8N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-[(Methylamino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | yield of 66% | CN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C16H13NOS
